US06162819
1-Benzyl-3-(5-(N-(4-trifluoromethylphenyl)carbamoyl)-2-furyl)indazole:
0.29 g (1.8 mmol) of 4-trifluoromethylaniline were initially charged in 20 ml of THF1 0.14 g (1.8 mmol) of pyridine were added and a solution of 0.5 g (1.5 mmol) of 1-benzyl-3-(5-chlorocarbonyl-2-furyl)indazole in 10 ml of THF was added dropwise at RT. After 0.5 h, the mixture was poured into ice-water and the precipitate was filtered off with suction and recrystallized from isopropanol. This gave 0.47 g (69%) of the title compound. m.p.: 205-206° C.

reactant | 4-trifluoromethylaniline | 1.8 mmol, 0.29 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | pyridine | 1.8 mmol, 0.14 g | N1=CC=CC=C1 | C5H5N
reactant | 1-benzyl-3-(5-chlorocarbonyl-2-furyl)indazole | 1.5 mmol, 0.5 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)Cl | C19H13ClN2O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(5-(N-(4-trifluoromethylphenyl)carbamoyl)-2-furyl)indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(NC1=CC=C(C=C1)C(F)(F)F)=O | C26H18F3N3O2
